US06281227B1
A. 7-Methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methylamide
To a solution of 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (0.151 g, 0.304 mmol) in acetone (20 mL) is added potassium carbonate (0.084 g, 0.608 mmol) followed by methyl iodide (0.12 mL, 1.93 mmol). The resulting mixture is heated to reflux overnight, then cooled to room temperature and diluted with methylene chloride. The solution is washed with saturated NaHCO3 solution, water and brine. The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with 5% MeOH/CH2Cl2 to give the product (0.093 mg, 0.18 mmol) as an oil.

reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 0.304 mmol, 0.151 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H22ClN3O4S
reactant | potassium carbonate | 0.608 mmol, 0.084 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.93 mmol, 0.12 mL | CI | CH3I
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-methylamide | 0.18 mmol, 0.093 mg | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)N(S(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)C)=O | C26H24ClN3O4S
